US08137821B2
A 30 mL Schlenk tube was replaced with Ar, 3.9 g (15 mmol) of 4-bromobenzophenone, 173 mg (0.15 mmol) of tetrakis(triphenylphosphine)palladium, 15 mL of piperidine and 1.6 mL (16.5 mmol) of 2-methyl-3-butyn-2-ol were added and the mixture was stirred at 100° C. for 1 hour. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and then the mixture was extracted with diethyl ether. The extract was dried over magnesium sulfate, followed by distilling off of the solvent under reduced pressure by an evaporator. The resulting crude reaction product was dissolved in 300 ml of hexane at 70° C., the insolubles were filtered off, and then the filtrate was cooled to give dimethylhydroxymethyl-4-benzoylphenylacetylene, i.e., the desired compound as a yellow crystal. Yield: 3.47 g (yield: 88%).

reactant | 4-bromobenzophenone | 15 mmol, 3.9 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | piperidine | 15 mL | N1CCCCC1 | C5H11N
reactant | 2-methyl-3-butyn-2-ol | 16.5 mmol, 1.6 mL | CC(C)(C#C)O | C5H8O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hexane | 300 ml | CCCCCC | C6H14
catalyst | tetrakis(triphenylphosphine)palladium | 0.15 mmol, 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | dimethylhydroxymethyl-4-benzoylphenylacetylene | CC=1C(=C(C=CC1C(C1=CC=CC=C1)=O)C#CCO)C | C18H16O2
